US09428528B2
Step 4 Preparation of (4S,5R)-4-Fluoromethyl-5-{4-[6-(isopropyl amino-methyl)-pyridin-3-yl]-phenyl}-2,2-dimethyl-oxazolidine-3-carboxylic acid tert-butyl ester
To a solution of (4S,5R)-4-Fluoromethyl-2,2-dimethyl-5-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-oxazolidine-3-carboxylic acid tert-butyl ester (270 mg, 0.620 mmol) in dimethoxyethane:water (8:2, 3.6 mL) is added Cs2CO3 (504 mg, 1.55 mmol) and (5-Bromo-pyridin-2-ylmethyl)-isopropyl-amine (156 mg, 0.682 mmol) at room temperature. Reaction mixture is degassed with nitrogen for 30 minutes then Pd(PPh3)4 (71 mg, 0.062 mmol) is added. The resulting reaction mixture is heated to 90° C. for 4 hours. The reaction mixture is diluted with water and ethyl acetate. The organic layer is separated, dried over sodium sulphate and solvent is evaporated in vacuo. The crude is purified by column chromatography eluting in 5% methanol in CH2Cl2 to afford the title compound (100 mg). LC-MS (m/z): [M+H]=458.2.

reactant | (4S,5R)-4-Fluoromethyl-2,2-dimethyl-5-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-oxazolidine-3-carboxylic acid tert-butyl ester | 0.620 mmol, 270 mg | C(C)(C)(C)OC(=O)N1C(O[C@@H]([C@H]1CF)C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C)(C)C | C23H35BFNO5
reactant | Cs2CO3 | 1.55 mmol, 504 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | (5-Bromo-pyridin-2-ylmethyl)-isopropyl-amine | 0.682 mmol, 156 mg | BrC=1C=CC(=NC1)CNC(C)C | C9H13BrN2
reactant | dimethoxyethane water | 3.6 mL | C(OC)COC.O
solvent | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | Pd(PPh3)4 | 0.062 mmol, 71 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | (4S,5R)-4-Fluoromethyl-5-{4-[6-(isopropyl amino-methyl)-pyridin-3-yl]-phenyl}-2,2-dimethyl-oxazolidine-3-carboxylic acid tert-butyl ester | 100 mg | C(C)(C)(C)OC(=O)N1C(O[C@@H]([C@H]1CF)C1=CC=C(C=C1)C=1C=NC(=CC1)C(N)C(C)C)(C)C | C26H36FN3O3
